US08461189B2
3-Amino-2-nitro-5-phenylpyridine
To 5-bromo-3-amino-2-nitropyridine (190 mg, 0.872 mmol) in a dry microwave reaction tube were added phenylboronic acid (159 mg, 1.31), K2CO3 (361 mg, 2.61 mmol) and Pd(PPh3)4 (101 mg, 0.087 mmol) and the reaction flask was evacuated and flushed with N2 four times. To this solid reaction mixture was added anhydrous THF (2 mL) and the reaction mixture was degassed by applying vacuum and flushing with N2 five times and sealed in N2 atmosphere. The reaction mixture was then heated 120° C. for 2 h. After this time, LC/MS analysis of the reaction mixture should essentially show the desired product. Reaction mixture was concentrated in vacuo and to the residue was added MeOH and stirred for 30 min. All the solids were collected by filtration and washed thoroughly with MeOH and water MS: cal'd 216 (M+H)+, exp 216 (M+H)+

reactant | 5-bromo-3-amino-2-nitropyridine | 0.872 mmol, 190 mg | BrC=1C=C(C(=NC1)[N+](=O)[O-])N | C5H4BrN3O2
reactant | phenylboronic acid | 159 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | K2CO3 | 2.61 mmol, 361 mg | C(=O)([O-])[O-].[K+].[K+]
catalyst | Pd(PPh3)4 | 0.087 mmol, 101 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 3-Amino-2-nitro-5-phenylpyridine | NC=1C(=NC=C(C1)C1=CC=CC=C1)[N+](=O)[O-] | C11H9N3O2
